US06559143B1
(i) 4-[(3-Bromopropyl)sulfanyl]benzonitrile
A mixture of 4-cyanothiophenol (20.8 g, 154 mmol), 1,3-dibromopropane (155 g, 0.77 mol) and K2CO3 (21.3 g, 154 mmol) in MeCN (300 mL) was refluxed overnight. Filtration and evaporation of the solvent gave a brown oil that crystallised when treated with EtOH. The crystals were isolated by filtration to give the sub-title compound (24.5 g, 62%).

reactant | 4-cyanothiophenol | 154 mmol, 20.8 g | C(#N)C1=CC=C(C=C1)S | C7H5NS
reactant | 1,3-dibromopropane | 0.77 mol, 155 g | BrCCCBr | C3H6Br2
reactant | K2CO3 | 154 mmol, 21.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 300 mL | CC#N | C2H3N
product | 4-[(3-Bromopropyl)sulfanyl]benzonitrile | 24.5 g, 62% | BrCCCSC1=CC=C(C#N)C=C1 | C10H10BrNS
